US05212187
N-[2-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.29 g (0.97 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil: MS (+FAB method): m/z (rel. int. [%])=560 ([M+H]+, 8), 78 (100); IR (KBr): 1659 cm-1 (C=O). For further analysis, a portion of the compound is converted into the O,O'-ditoluoyltartaric acid salt in an ethanol/ether solvent mixture; m.p.: 132° C. (ethanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,2-ethanediamine | 0.97 mmol, 0.29 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCN)C)C=C1 | C17H23FN4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
product | N-[2-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]ethyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | FC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCNC(=O)NCCSCC=2N=C(SC2)NC(=N)N)C=C1 | C25H34FN9OS2
